US06506762B1
A. N-(2-{[3-(2,6-Dichlorophenyl)-2,5-dimethylpyrazolo[3,4-e]pyrimidin-7-yl]amino}-2-(4-ethoxy-3-methoxyphenyl)acetamide
To a stirred solution of (2-aminoethyl)[3-(2,6-dichlorophenyl)-2,5-dimethylpyrazolo[3,4-e]pyrimidin-7-yl]amine (175 mg, 0.5 mmol) in N,N-dimethylacetamide (5 mL), add 4-methylmorpholine (101 mg, 1.0 mmol), 2-(4-ethoxy-3-methoxyphenyl)acetic acid (115 mg, 0.55 mmol) and bis(2-oxo-3-oxazolidinyl)phosphinic chloride (331 mg, 0.75 mmol). Stir the reaction mixture at ambient temperature for 14 h and dilute with EtOAc (15 mL). Wash the organic extracts successively with water (10 mL), brine (10 ), saturated NH4Cl (10 mL), 2N NaOH (10 mL), brine (10 mL), dry over MgSO4 and evaporate under reduced pressure to obtain the title compound.

reactant | (2-aminoethyl)[3-(2,6-dichlorophenyl)-2,5-dimethylpyrazolo[3,4-e]pyrimidin-7-yl]amine | 0.5 mmol, 175 mg | NCCNC1=NC(=NC=2C1=NN(C2C2=C(C=CC=C2Cl)Cl)C)C | C15H16Cl2N6
reactant | 4-methylmorpholine | 1.0 mmol, 101 mg | CN1CCOCC1 | C5H11NO
reactant | 2-(4-ethoxy-3-methoxyphenyl)acetic acid | 0.55 mmol, 115 mg | C(C)OC1=C(C=C(C=C1)CC(=O)O)OC | C11H14O4
reactant | bis(2-oxo-3-oxazolidinyl)phosphinic chloride | 0.75 mmol, 331 mg | O=C1OCCN1P(=O)(N1C(OCC1)=O)Cl | C6H8ClN2O5P
solvent | N,N-dimethylacetamide | 5 mL | CN(C(C)=O)C | C4H9NO
solvent | EtOAc | 15 mL | CCOC(=O)C | C4H8O2
product | 2-{[3-(2,6-Dichlorophenyl)-2,5-dimethylpyrazolo[3,4-e]pyrimidin-7-yl]amino}-2-(4-ethoxy-3-methoxyphenyl)acetamide | ClC1=C(C(=CC=C1)Cl)C=1N(N=C2C(=NC(=NC21)C)NC(C(=O)N)C2=CC(=C(C=C2)OCC)OC)C | C24H24Cl2N6O3
